* File: DLY8LX1.pex.netlist.pex
* Created: Mon Jun  5 11:40:56 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DLY8LX1%D_VDD 1 4 8 14 20 25 44 45 46 47
c25 47 0 0.348144f
c26 46 0 0.300415f
c27 45 0 0.343588f
c28 44 0 0.337737f
c29 39 0 0.0701213f
c30 34 0 0.0701213f
c31 20 0 0.283488f
c32 14 0 1.03992f
c33 8 0 0.993417f
c34 4 0 0.445344f
c35 1 0 0.356031f
r36 38 47 0.264444
r37 38 39 0.0120155
r38 35 46 0.264444
r39 33 45 0.302222
r40 33 34 0.0120155
r41 30 44 0.302222
r42 26 39 0.0329425
r43 20 39 0.0329425
r44 20 25 0.0085
r45 15 34 0.0329425
r46 8 34 0.0329425
r47 1 35 0.0120155
r48 1 14 0.0329425
r49 1 21 0.0329425
r50 1 30 0.0120155
r51 1 4 0.0329425
r52 1 9 0.0329425
r53 1 26 0.051
r54 1 25 0.136
r55 1 21 0.102
r56 1 14 0.2295
r57 1 15 0.187
r58 1 8 0.1445
r59 1 9 0.238
r60 1 4 0.2295
.ends

.subckt PM_DLY8LX1%N$7 2 5 10 14 17 18 27
c28 27 0 0.349177f
c29 25 0 0.107167f
c30 18 0 1.95356f
c31 17 0 0.148316f
c32 14 0 0.328139f
c33 10 0 0.479304f
c34 5 0 0.569852f
c35 2 0 0.11114f
r36 24 27 0.321111
r37 24 25 0.0359928
r38 17 18 7
r39 15 25 0.00935391
r40 15 17 0.259722
r41 14 25 0.0359928
r42 14 23 0.358889
r43 12 18 37.9808
r44 10 12 8.20167
r45 6 18 24.5192
r46 5 6 11.7731
r47 2 23 0.0375095
.ends

.subckt PM_DLY8LX1%D_GND 1 5 6 7 21 23 25 34
c26 34 0 0.916236f
c27 25 0 0.430364f
c28 23 0 0.0701213f
c29 21 0 0.919172f
c30 7 0 0.232419f
c31 6 0 0.184267f
c32 5 0 0.179172f
c33 1 0 0.711533f
r34 21 23 0.0329425
r35 20 23 0.0329425
r36 12 23 0.0120155
r37 7 16 0.146389
r38 6 12 0.146389
r39 5 8 0.146389
r40 1 16 0.0120155
r41 1 34 0.0329425
r42 1 39 0.0329425
r43 1 8 0.0120155
r44 1 25 0.0329425
r45 1 29 0.0329425
r46 1 39 0.1955
r47 1 34 0.272
r48 1 20 0.1445
r49 1 21 0.187
r50 1 29 0.2295
r51 1 25 0.238
.ends

.subckt PM_DLY8LX1%N$156 2 3 6 7 10 12 14 23 27
c28 27 0 0.393663f
c29 23 0 0.043186f
c30 14 0 0.0602178f
c31 12 0 0.498816f
c32 7 0 1.34045f
c33 6 0 0.579155f
c34 3 0 0.986114f
c35 2 0 0.0720834f
r36 23 24 7
r37 21 27 0.566667
r38 19 23 0.0472222
r39 19 21 0.00499195
r40 14 19 0.00499195
r41 14 18 0.113333
r42 12 24 70.8333
r43 11 12 14.4348
r44 10 11 21.6346
r45 6 7 12.1876
r46 3 11 4.51661
r47 3 7 48.9583
r48 2 18 0.0373782
.ends

.subckt PM_DLY8LX1%N$155 2 5 10 19 20 23 25
c32 25 0 0.26368f
c33 23 0 0.0689243f
c34 20 0 1.74773f
c35 19 0 0.203106f
c36 10 0 0.491298f
c37 5 0 0.588301f
c38 2 0 0.231423f
r39 22 25 0.321111
r40 22 23 0.0359928
r41 19 20 7
r42 17 23 0.00935391
r43 17 19 0.476944
r44 13 23 0.0359928
r45 12 20 44.8864
r46 10 12 9.25262
r47 6 20 28.9773
r48 5 6 12.824
r49 2 13 0.401389
.ends

.subckt PM_DLY8LX1%nose 2 3 6 7 10 12 14 24 28
c34 28 0 0.412633f
c35 24 0 0.0382761f
c36 14 0 0.0503162f
c37 12 0 0.569761f
c38 7 0 1.28884f
c39 6 0 0.585362f
c40 3 0 0.973907f
c41 2 0 0.0713103f
r42 24 25 7
r43 22 28 0.566667
r44 20 24 0.0472222
r45 20 22 0.00499195
r46 14 20 0.00499195
r47 13 15 0.00499195
r48 13 14 0.113333
r49 12 25 81.9444
r50 11 12 14.1861
r51 10 11 22.0588
r52 6 7 12.4783
r53 3 11 4.70557
r54 3 7 51.087
r55 2 15 0.0661111
.ends

.subckt PM_DLY8LX1%N$146 2 4 5 7 10 12 14 16 17 24 28 30 34
c43 34 0 0.190698f
c44 30 0 0.27789f
c45 28 0 0.0815227f
c46 24 0 0.167584f
c47 17 0 0.056156f
c48 14 0 0.299388f
c49 12 0 0.240884f
c50 10 0 0.582113f
c51 5 0 0.305015f
c52 4 0 0.203477f
c53 2 0 0.241146f
r54 27 30 0.321111
r55 27 28 0.0359928
r56 25 34 12.5
r57 25 31 1.38889
r58 24 25 7
r59 22 28 0.00935391
r60 22 24 0.410833
r61 18 28 0.0359928
r62 14 16 62.5
r63 13 17 2.75115
r64 12 14 13.9682
r65 12 13 54.1667
r66 8 34 6.3741
r67 8 10 150
r68 5 17 10.5861
r69 5 7 62.5
r70 4 17 10.5861
r71 3 31 6.3741
r72 3 4 70.8333
r73 2 18 0.401389
.ends

.subckt PM_DLY8LX1%Q 2 3 4 6 8 13
c23 13 0 0.0877811f
c24 6 0 0.30997f
c25 4 0 0.0396565f
c26 3 0 0.153784f
c27 2 0 0.143603f
r28 6 8 0.0521549
r29 5 6 0.587917
r30 4 13 0.0755777
r31 3 8 0.0793984
r32 3 4 0.2125
r33 2 5 0.0755777
.ends

.subckt PM_DLY8LX1%D 3 7 11 13
c19 13 0 0.0442499f
c20 11 0 0.152723f
c21 7 0 0.796567f
c22 3 0 0.38312f
r23 11 17 15.22
r24 11 16 15.22
r25 11 13 7
r26 7 17 231.25
r27 3 16 93.75
.ends

