* File: DLY1p6LX1.pex.netlist.pex
* Created: Mon Jun  5 11:39:13 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DLY1p6LX1%D_VDD 1 4 8 19 33 34 35
c20 35 0 0.375555f
c21 34 0 0.314569f
c22 33 0 0.33284f
c23 26 0 0.0701213f
c24 19 0 0.590324f
c25 8 0 0.692098f
c26 4 0 0.443301f
c27 1 0 0.0701213f
r28 27 35 0.321111
r29 25 34 0.377778
r30 25 26 0.0120155
r31 22 33 0.377778
r32 19 27 0.0120155
r33 15 26 0.0329425
r34 8 26 0.0329425
r35 1 22 0.0120155
r36 1 4 0.0329425
r37 1 9 0.0329425
r38 1 19 0.136
r39 1 15 0.119
r40 1 8 0.0765
r41 1 9 0.2295
r42 1 4 0.238
.ends

.subckt PM_DLY1p6LX1%N$7 2 3 5 6 8 13 14 16 18 19 28 29 34 36
c39 36 0 0.244843f
c40 34 0 0.135042f
c41 29 0 0.146545f
c42 28 0 0.0345528f
c43 26 0 0.0398649f
c44 19 0 0.190919f
c45 18 0 0.369089f
c46 16 0 0.244616f
c47 14 0 0.170196f
c48 13 0 0.280473f
c49 6 0 0.253925f
c50 3 0 0.582356f
c51 2 0 0.120181f
r52 34 38 0.02975
r53 29 37 15.2843
r54 29 36 15.2843
r55 28 31 0.0188889
r56 28 29 7
r57 20 26 0.00935391
r58 19 31 0.0216719
r59 19 20 0.40375
r60 18 38 0.025958
r61 17 26 0.0359928
r62 17 18 0.665833
r63 16 26 0.0359928
r64 15 21 0.0216719
r65 15 16 0.44625
r66 14 36 79.1667
r67 13 37 89.5833
r68 6 14 18.1219
r69 6 8 6.85484
r70 3 13 17.5142
r71 3 5 22.9839
r72 2 21 0.0330556
.ends

.subckt PM_DLY1p6LX1%D_GND 1 4 5 15 20
c24 20 0 0.665631f
c25 15 0 0.44361f
c26 5 0 0.220513f
c27 4 0 0.168032f
c28 1 0 0.771059f
r29 5 10 0.146389
r30 4 6 0.160556
r31 1 10 0.0120155
r32 1 20 0.0329425
r33 1 26 0.0329425
r34 1 6 0.0120155
r35 1 15 0.0329425
r36 1 21 0.0329425
r37 1 26 0.238
r38 1 20 0.0935
r39 1 21 0.221
r40 1 15 0.2465
.ends

.subckt PM_DLY1p6LX1%N$147 2 3 5 7 8 10 12 15 16 17 23 29 31 34 37
c44 37 0 0.166099f
c45 34 0 0.167717f
c46 31 0 0.147161f
c47 29 0 0.0276148f
c48 23 0 0.175252f
c49 17 0 0.0493996f
c50 16 0 0.163476f
c51 15 0 0.267418f
c52 12 0 0.275706f
c53 8 0 0.251221f
c54 5 0 0.574397f
c55 3 0 0.31247f
c56 2 0 0.0774173f
r57 30 37 15.2843
r58 29 32 0.0519666
r59 29 31 0.0519666
r60 29 30 7
r61 27 31 0.375417
r62 23 34 0.0519666
r63 23 32 0.44625
r64 13 17 10.5861
r65 13 15 89.5833
r66 12 17 10.5861
r67 12 16 91.6667
r68 8 16 17.8007
r69 8 10 6.85484
r70 5 15 17.5142
r71 5 7 22.9839
r72 3 17 2.75115
r73 3 37 100
r74 2 27 0.0519666
.ends

.subckt PM_DLY1p6LX1%N$146 2 4 7 11 13 17 21 26 29 31 33 34 35 38
c49 38 0 0.167717f
c50 35 0 0.186055f
c51 34 0 0.16282f
c52 33 0 0.0291004f
c53 31 0 0.179076f
c54 29 0 1.59602e-19
c55 26 0 0.0813078f
c56 21 0 0.162777f
c57 19 0 0.0616782f
c58 17 0 0.461096f
c59 13 0 0.24632f
c60 11 0 0.451375f
c61 7 0 0.467895f
c62 4 0 0.2018f
r63 34 41 15.219
r64 34 40 15.219
r65 33 35 0.0519666
r66 33 34 7
r67 31 38 0.0519666
r68 25 29 0.00935391
r69 25 35 0.44625
r70 22 29 0.0359928
r71 22 31 0.44625
r72 21 29 0.0359928
r73 20 26 0.0202956
r74 20 21 0.417917
r75 15 17 112.5
r76 14 19 2.75115
r77 13 15 13.9682
r78 13 14 54.1667
r79 11 40 108.333
r80 5 19 10.5861
r81 5 7 112.5
r82 4 19 10.5861
r83 4 41 64.5833
r84 2 26 0.0244253
.ends

.subckt PM_DLY1p6LX1%Q 2 3 4 6 12 14
c18 6 0 0.310648f
c19 4 0 0.167623f
c20 3 0 0.0443557f
c21 2 0 0.143603f
r22 6 12 0.0542887
r23 6 10 0.587917
r24 4 14 0.1369
r25 3 12 0.0608271
r26 3 4 0.17
r27 2 10 0.0755777
.ends

.subckt PM_DLY1p6LX1%D 3 7 11 13
c22 13 0 0.0423421f
c23 11 0 0.157025f
c24 7 0 0.386005f
c25 3 0 0.927509f
r26 11 17 15.22
r27 11 16 15.22
r28 11 13 7
r29 7 16 93.75
r30 3 17 266.667
.ends

