* File: EO2X1.pex.netlist.pex
* Created: Thu Jun 22 08:20:48 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_EO2X1%D_VDD 1 4 9 10 15 17 29 30
c28 30 0 0.0712603f
c29 29 0 0.0882376f
c30 24 0 0.0467475f
c31 17 0 0.12885f
c32 10 0 0.572948f
c33 9 0 0.141799f
c34 4 0 0.485006f
c35 1 0 0.928433f
r36 16 30 0.0566888
r37 16 17 0.255
r38 11 24 0.0231002
r39 10 15 0.0765
r40 9 24 0.0225187
r41 8 29 0.0566888
r42 8 9 0.255
r43 4 24 0.0231002
r44 1 17 0.0225187
r45 1 10 0.0231002
r46 1 18 0.0231002
r47 1 18 0.242335
r48 1 15 0.174165
r49 1 11 0.225335
r50 1 4 0.131665
.ends

.subckt PM_EO2X1%Bb 2 5 8 13 17 19 20 22 24 25 32 33 36
c72 36 0 0.113916f
c73 33 0 0.144343f
c74 32 0 0.0185565f
c75 30 0 0.0574809f
c76 25 0 0.269685f
c77 24 0 0.43556f
c78 22 0 0.149936f
c79 20 0 0.0955039f
c80 19 0 0.18772f
c81 17 0 0.153845f
c82 13 0 0.409121f
c83 8 0 0.130396f
c84 5 0 0.367305f
c85 2 0 0.0986447f
r86 33 39 15.2843
r87 33 38 15.2843
r88 32 33 7
r89 26 30 0.00935391
r90 25 32 0.052061
r91 25 26 1.04125
r92 24 36 0.0566888
r93 23 30 0.0359928
r94 23 24 0.842917
r95 22 30 0.0359928
r96 21 22 0.27625
r97 19 20 19.9667
r98 15 17 27.0833
r99 13 20 110.417
r100 9 17 1.46822
r101 9 19 62.5
r102 8 15 1.46822
r103 8 39 39.5833
r104 5 38 100
r105 2 21 0.0518721
.ends

.subckt PM_EO2X1%D_GND 1 4 5 7 9 14 20 29
c31 21 0 0.0467475f
c32 20 0 0.648668f
c33 15 0 0.0467475f
c34 14 0 0.474457f
c35 9 0 0.0818042f
c36 7 0 0.0818042f
c37 5 0 0.0641834f
c38 4 0 0.0721135f
c39 1 0 0.804283f
r40 20 21 0.0231002
r41 19 21 0.0231002
r42 14 15 0.0231002
r43 13 15 0.0231002
r44 8 21 0.0225187
r45 8 9 0.155833
r46 6 15 0.0225187
r47 6 7 0.155833
r48 5 9 0.052061
r49 4 7 0.052061
r50 1 19 0.140335
r51 1 20 0.080665
r52 1 29 0.097835
r53 1 29 0.174165
r54 1 13 0.225335
r55 1 14 0.131665
.ends

.subckt PM_EO2X1%Ab 2 4 5 7 11 15 19 23 29 30 33 37 44
c57 44 0 0.108223f
c58 37 0 0.135593f
c59 30 0 0.138303f
c60 29 0 0.0475945f
c61 23 0 0.0920834f
c62 19 0 0.0447658f
c63 15 0 0.380814f
c64 11 0 0.185744f
c65 7 0 0.314708f
c66 5 0 0.351653f
c67 4 0 0.578595f
c68 2 0 0.0796271f
r69 33 44 0.033915
r70 30 35 4.16667
r71 29 30 7
r72 23 44 0.025958
r73 22 29 0.0519666
r74 22 23 0.240833
r75 20 40 15.2565
r76 20 37 4.19444
r77 19 27 0.0709278
r78 19 20 7
r79 13 15 91.6667
r80 9 11 37.5
r81 8 37 6.3741
r82 7 9 13.9682
r83 7 8 83.3333
r84 6 35 6.3741
r85 5 13 13.9682
r86 5 6 91.6667
r87 4 30 15.2843
r88 4 40 195.833
r89 2 27 0.0373074
.ends

.subckt PM_EO2X1%Z 3 4 6 8 11 14 15 16 18 23 30 32 33 36
c68 36 0 0.0636475f
c69 33 0 0.157369f
c70 32 0 0.222809f
c71 23 0 0.0435646f
c72 18 0 0.143034f
c73 16 0 0.0121402f
c74 15 0 0.12598f
c75 14 0 0.00974743f
c76 11 0 0.17732f
c77 8 0 0.185033f
c78 6 0 0.357072f
c79 3 0 0.0655411f
r80 32 34 0.00938148
r81 32 33 7
r82 30 32 0.0221
r83 23 26 0.0519666
r84 23 24 7
r85 18 36 0.0566888
r86 18 26 0.410833
r87 15 34 0.0383708
r88 15 16 0.87125
r89 14 16 0.0474919
r90 13 14 0.085
r91 9 11 31.25
r92 8 11 1.46822
r93 7 33 15.2565
r94 7 8 62.5
r95 6 24 20.9242
r96 5 9 1.46822
r97 5 6 50
r98 4 30 0.0534556
r99 3 13 0.0518721
.ends

.subckt PM_EO2X1%N$18 2 3 4 6 8 9 10 12 16 17 18
c41 18 0 0.114431f
c42 17 0 0.0623783f
c43 16 0 0.084229f
c44 12 0 0.0452766f
c45 10 0 0.0277266f
c46 9 0 0.1532f
c47 8 0 0.0254983f
c48 6 0 0.0308954f
c49 4 0 0.00410285f
c50 3 0 0.0850401f
c51 2 0 0.0808045f
r52 22 24 0.04675
r53 17 24 8.5e-05
r54 11 18 0.0566888
r55 11 12 0.085
r56 9 12 0.0474919
r57 9 10 0.453333
r58 8 10 0.0474919
r59 7 24 0.025958
r60 7 8 0.085
r61 6 22 0.025958
r62 5 6 0.240833
r63 3 5 0.0474919
r64 3 4 0.375417
r65 2 16 0.0566888
r66 1 4 0.0474919
r67 1 2 0.240833
.ends

.subckt PM_EO2X1%A 1 3 7 10 12 14 17 21 25 29 33 39 42 46 47 49 50 51
c113 51 0 0.129972f
c114 50 0 0.136615f
c115 49 0 0.0277379f
c116 47 0 0.03698f
c117 46 0 0.0886435f
c118 39 0 0.0323496f
c119 33 0 0.13536f
c120 29 0 0.153213f
c121 25 0 0.150129f
c122 21 0 0.313824f
c123 17 0 0.369575f
c124 14 0 0.138914f
c125 12 0 0.0845337f
c126 10 0 0.0977167f
c127 7 0 0.721289f
c128 3 0 0.488047f
c129 1 0 0.242923f
r130 49 51 0.052061
r131 49 50 7
r132 47 51 0.53125
r133 46 47 0.0728571
r134 42 44 7
r135 39 42 0.0472222
r136 36 39 0.0216719
r137 36 46 0.3825
r138 31 33 25
r139 27 29 22.9167
r140 23 25 22.9167
r141 19 33 1.46822
r142 19 21 87.5
r143 15 29 1.46822
r144 15 17 87.5
r145 14 25 1.46822
r146 13 31 1.46822
r147 13 14 50
r148 12 27 1.46822
r149 11 50 15.2843
r150 11 12 29.1667
r151 10 50 15.2843
r152 9 23 1.46822
r153 9 10 33.3333
r154 5 44 22.9184
r155 5 7 220.833
r156 1 44 15.6146
r157 1 3 127.083
.ends

.subckt PM_EO2X1%B 3 9 12 15 19 21 22 24 25 26 29 31 32 33 34 39 43 45 46 48
c100 48 0 0.170159f
c101 46 0 0.190123f
c102 45 0 0.0834343f
c103 43 0 0.152723f
c104 39 0 0.190663f
c105 34 0 0.0287634f
c106 33 0 0.0198192f
c107 32 0 0.0356253f
c108 31 0 0.24047f
c109 29 0 0.151969f
c110 26 0 0.0827625f
c111 25 0 0.0923826f
c112 24 0 0.557556f
c113 22 0 0.0866298f
c114 21 0 0.383288f
c115 19 0 0.394185f
c116 15 0 0.190731f
c117 12 0 0.102215f
c118 9 0 0.548533f
c119 3 0 0.563518f
r120 45 48 7
r121 45 46 0.0519666
r122 42 43 7
r123 39 50 13.9167
r124 38 39 7
r125 36 42 0.023746
r126 36 46 0.672917
r127 33 42 0.023746
r128 33 34 0.085
r129 32 38 0.0518721
r130 31 34 0.0474919
r131 31 32 1.0625
r132 27 29 31.25
r133 25 26 21.4286
r134 23 48 15.2843
r135 23 24 152.083
r136 21 24 13.9682
r137 21 22 75
r138 17 22 13.9682
r139 17 19 91.6667
r140 13 29 1.46822
r141 13 15 37.5
r142 12 43 15.2843
r143 11 27 1.46822
r144 11 12 37.5
r145 9 26 150
r146 5 50 6.3741
r147 5 25 31.25
r148 1 50 6.3741
r149 1 3 156.25
.ends

